US04248868
1.72 g (3 mmols) of diphenylmethyl 3-(methoxycarbonylmethyl)-7β-phenoxyacetylamino-3-cephem-4-carboxylate in 21 ml of methylene chloride are stirred with 1.62 ml (5 equivalents) of anisole and 9.3 ml (40 equivalents) of trifluoroacetic acid for 30 minutes in an ice bath, 100 ml of cold toluene are added and the mixture is evaporated in a rotary evaporator. The residue is digested with ether and the precipitate which has formed is filtered off, washed with ether and dried. A crude product is obtained and is chromatographed on 10 g of silica gel, which had been deactivated by the addition of 5% of water. Elution with methylene chloride and 20-30% of ethyl acetate gives amorphous 3-(methoxycarbonylmethyl-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid, which according to thin layer chromatography is a single compound; Rf 0.38 (on silica gel; using n-butanol:acetic acid:water, 67:10:23); UV spectrum (in ethanol): λmax =262, 267 and 274; IR spectrum (in methylene chloride): bands at 2.94, 5.58,5.74, 5.88, 6.11, 6.24, 6.59 and 6.69μ.

reactant | diphenylmethyl 3-(methoxycarbonylmethyl)-7β-phenoxyacetylamino-3-cephem-4-carboxylate | 3 mmols, 1.72 g | COC(=O)CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C31H28N2O7S
reactant | anisole | 1.62 ml, 5 equivalents | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 9.3 ml, 40 equivalents | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 21 ml | C(Cl)Cl | CH2Cl2
product | methoxycarbonylmethyl-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid | COC(=O)CC1S[C@H]2N(C(=C1)C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C18H18N2O7S
